US05539114
A solution of 2,4-dichlorophenyl isocyanate (47.0 g, 0.25 mol) in xylene (130 ml) is metered at room temperature into a solution of ethyl 5-fluoroanthranilate (45.2 g, 0.25 mol) in xylene (210 ml). After addition is complete, the mixture is stirred at 90° C. for 2.5 hours. 4.50 ml of a 30% strength solution of methanolic sodium methoxide (0.025 mol) are metered in and the mixture is stirred at 90° C. for a further 2 hours, ethanol and methanol being distilled off. After cooling, the product is filtered off with suction and washed with 3×30 ml of xylene. The xylene-moist precipitate is treated with dilute hydrochloric acid and the residual xylene is removed by azeotropic distillation. The product is then filtered off with suction, washed with water and dried. 73.4 g of 3-(2,4 dichlorophenyl)-6-fluoro-2,4(1H,3H)-quinazolinedione (yield: 90.3% of theory) of melting point 313° to 314° C. are obtained.

reactant | 2,4-dichlorophenyl isocyanate | 0.25 mol, 47.0 g | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
reactant | ethyl 5-fluoroanthranilate | 0.25 mol, 45.2 g | FC1=CC=C(C(C(=O)OCC)=C1)N | C9H10FNO2
reactant | sodium methoxide | 0.025 mol | C[O-].[Na+]
solvent | xylene | 130 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 210 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(2,4 dichlorophenyl)-6-fluoro-2,4(1H,3H)-quinazolinedione | 73.4 g, yield: 90.3% | ClC1=C(C=CC(=C1)Cl)N1C(NC2=CC=C(C=C2C1=O)F)=O | C14H7Cl2FN2O2
